US04281019
2,3-Dihydroxypropyl 4-(4-tetradecenylamino)phenylbutyrate
A mixture of 2.25 g. of methyl 4-(4-tetradecenylamino)phenylbutyrate, 280 mg. of glycerol, and 1.37 g. of p-toluenesulfonic acid is heated at 180° C. for 18 hours and then is partitioned between ether and 3% aqueous sodium carbonate solution. The ether layer is separated, dried, and evaporated to yield the product as a white solid.

reactant | methyl 4-(4-tetradecenylamino)phenylbutyrate | C(CCC=CCCCCCCCCC)NC1=CC=C(C=C1)C(C(=O)OC)CC | C25H41NO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | glycerol | OCC(O)CO | C3H8O3
product | 2,3-Dihydroxypropyl 4-(4-tetradecenylamino)phenylbutyrate | C(CCC=CCCCCCCCCC)NC1=CC=C(C=C1)C(C(=O)OCC(CO)O)CC | C27H45NO4
